US09169254B2
[1,4]Dioxane-2,6-dione (312 mg, 2.69 mmol) was added to a solution of 4-bromo-3-methyl-phenylamine (500 mg, 2.69 mmol) in tBuOMe (7.0 ml), and the mixture was stirred at room temperature overnight. The reaction solution was concentrated under reduced pressure. Acetic anhydride (4.0 ml, 42.3 mmol) and sodium acetate (35 mg, 0.427 mmol) were added to the resulting residue, and the mixture was heated with stirring at 60° C. for three hours. Water was added to the reaction solution, and collection by filtration and trituration with water gave 4-(4-bromo-3-methyl-phenyl)-morpholine-3,5-dione (577 mg, 73%).

reactant | [1,4]Dioxane-2,6-dione | 2.69 mmol, 312 mg | O1C(COCC1=O)=O | C4H4O4
reactant | 4-bromo-3-methyl-phenylamine | 2.69 mmol, 500 mg | BrC1=C(C=C(C=C1)N)C | C7H8BrN
reactant | Acetic anhydride | 42.3 mmol, 4.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.427 mmol, 35 mg | C(C)(=O)[O-].[Na+]
solvent | tBuOMe | 7.0 ml | C(C)(C)(C)OC | C5H12O
solvent | water | O | H2O
product | 4-(4-bromo-3-methyl-phenyl)-morpholine-3,5-dione | 577 mg, 73% | BrC1=C(C=C(C=C1)N1C(COCC1=O)=O)C | C11H10BrNO3
